US08624034B2
Step B) 2-(4-Bromo-2-fluorophenyl)-2H-1,2,3-triazole
Copper (II) trifluoromethanesulfonate (218 mg, 0.60 mmol) was added to a slurry of (1E,2E)-ethanedial bis[(4-bromo-2-fluorophenyl)hydrazone] (2.61 g, 6.04 mmol) in toluene (25 mL). The reaction was heated to reflux and stirred at this temperature overnight. The reaction was allowed to cool and was filtered through celite, and the filter pad was washed with EtOAc (100 mL). The combined filtrates were washed with 1 N aq HCl (3×100 mL), water (100 mL), and brine (100 mL) and then dried (MgSO4), filtered and concentrated. The crude product was purified via flash chromatography using a Varian SF25-40 g column and an eluent of EtOAc in hexanes (0-50%) to afford the title compound as a yellow solid (1.08 g, 73.9%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.44 (ddd, 1H) 7.47-7.54 (m, 1H) 7.76 (t, 1H) 7.90 (s, 2H).

reactant | (1E,2E)-ethanedial bis[(4-bromo-2-fluorophenyl)hydrazone] | 6.04 mmol, 2.61 g | BrC1=CC(=C(C=C1)N\N=C\C=N\NC1=C(C=C(C=C1)Br)F)F | C14H10Br2F2N4
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Copper (II) trifluoromethanesulfonate | 0.60 mmol, 218 mg | FC(S(=O)(=O)[O-])(F)F.[Cu+2].FC(S(=O)(=O)[O-])(F)F
product | 2-(4-Bromo-2-fluorophenyl)-2H-1,2,3-triazole | 1.08 g, 73.9% | BrC1=CC(=C(C=C1)N1N=CC=N1)F | C8H5BrFN3
